US05595958
Five grams (g) of 4-chloropyridine hydrochloride were placed into a 30 milliliters (ml) of diethyl ether in a 200 ml beaker equipped with a magnetic stirrer. 1.8 grams of sodium hydroxide in 30 ml of water were added at 0° C. and the mixture stirred for 15 minutes. The diethyl ether layer was separated, washed with water, dried over magnesium sulfate, filtered, and concentrated in vacuo. The 1.6 grams of the 4-chloropyridine produced were placed into a 3-necked flask and dissolved in 45 ml of ethylene glycol dimethyl ether (DME). After cooling to -70° C., 10 ml of 1.5 molar (M) solution of lithium diisopropyl amide (LDA) in cyclohexane were added over a period of 30 minutes while maintaining the temperature below -60° C. Upon completion of the addition, the reaction mixture was stirred for an additional hour at -70° C. To this cooled mixture were then added 2.6 grams of 4-bromopyridine-3-carboxaldehyde that was dissolved in 10 ml of DME. The reaction mixture was stirred in a dry-ice bath for 2 hours and then left at room temperature overnight. 35 ml of saturated ammonium chloride solution were added to the reaction mixture, and the mixture was stirred for 15 minutes at room temperature. The mixture was then extracted twice with ethyl ether. The combined ether extracts were then washed with water, dried over magnesium sulfate, filtered, and concentrated in vacuo to afford 2.9 g of the crude product as a viscous oil. This oil was then chromatographed on a silica gel column using ethyl acetate as the eluant to afford 0.5 g of 1-(4-bromopyrid-3-yl)-1-(4-chloropyrid-3-yl)methanol as a waxy solid.

reactant | lithium diisopropyl amide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 4-bromopyridine-3-carboxaldehyde | 2.6 grams | BrC1=C(C=NC=C1)C=O | C6H4BrNO
reactant | ammonium chloride | 35 ml | [Cl-].[NH4+]
reactant | ethylene glycol dimethyl ether | 45 ml | COCCOC | C4H10O2
reactant | DME | 10 ml | COCCOC | C4H10O2
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 1-(4-bromopyrid-3-yl)-1-(4-chloropyrid-3-yl)methanol | 0.5 g | BrC1=C(C=NC=C1)C(O)C=1C=NC=CC1Cl | C11H8BrClN2O
